US07576106B2
To a 20 mL vial equipped with a magnetic stirring bar was added 78 mg of 4-(4-Fluoro-benzyl)-piperidin-4-ol (0.37 mmol, 1.0 equiv.), 100 mg of (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid (0.41 mmol, 1.1 equiv), and 207 mg of (Benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (0.40 mmol, 1.1 equiv.). The reagents were dissolved in 3 mL of DMA and to the resultant solution was added 0.26 mL of DIPEA (1.5 mmol, 4.1 equiv). The reaction solution was stirred for 5 h and then poured into 50 mL of EtOAc. The organic phase was washed with saturated aq. NaCl (5×10 mL), 1% aq NaOH (1×10 mL), and 0.1 N HCl (1×10 mL). The organic phase was then dried over MgSO4 and concentrated in vacuo to afford a yellow oil, which was purified by preparative HPLC to afford 129 mg of 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-benzyl)-4-hydroxy-piperidin-1-yl]-ethanone (80% yield): MS (ES) M+H expected=414.2, found 414.2. 1H NMR (CDCl3, 400 MHz, 23° C.) δ 7.10-7.14 (m, 2H), 6.99-7.03 (m, 2H), 5.00 (d, J=15.6 Hz, 1H), 4.86 (d, J=15.6 Hz, 1H), 4.32-4.35 (m, 1H), 3.64-6.68 (m, 1H), 3.42-3.50 (m, 1H), 2.96-3.03 (m, 1H), 2.74 (s, 2H), 2.26 (s, 3H), 1.55-1.61 (m, 4H), 1.23 (s, 1H).

reactant | 4-(4-Fluoro-benzyl)-piperidin-4-ol | 0.37 mmol, 78 mg, 1.0 equiv. | FC1=CC=C(CC2(CCNCC2)O)C=C1 | C12H16FNO
reactant | (4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetic acid | 0.41 mmol, 100 mg, 1.1 equiv | ClC=1C(=NN(C1C)CC(=O)O)C(F)(F)F | C7H6ClF3N2O2
reactant | (Benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 0.40 mmol, 207 mg, 1.1 equiv. | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | DIPEA | 1.5 mmol, 0.26 mL, 4.1 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 3 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-1-[4-(4-fluoro-benzyl)-4-hydroxy-piperidin-1-yl]-ethanone | 129 mg, 80% yield | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(O)CC1=CC=C(C=C1)F)C(F)(F)F | C19H20ClF4N3O2
